US04767756
D. 7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
A solution of 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (15 g, 41.7 mmole) in 780 ml of tetrahydrofuran was cooled to -78° C. and 147 ml (167 mmole in tetrahydrofuran) of potassium hexamethyldisilazide solution was added. After stirring for 1 hour, 28.7 ml of triethyl phosphite (166.7 mmole) was added and anhydrous oxygen gas was rapidly bubbled through the resulting solution. The reaction temperature was then raised to 0° C. and allowed to stir for an additional hour. Oxygenation was then discontinued and the reaction was quenched by the addition of 50 ml of acetic acid. The reaction mixture was then concentrated and the residue dissolved in ethyl acetate. The organic solution was washed successively with 1N hydrochloric acid, saturated sodium bicarbonate, and brine and then dried over anhydrous sodium sulfate. Concentration of the dried organic solution afforded a solid which, upon trituration in hexane, gave 14.8 g of the title compound.

reactant | 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 41.7 mmole, 15 g | ClC=1C=CC2=C(CC(C(C(N2)=O)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C19H18ClNO4
reactant | potassium hexamethyldisilazide | 167 mmole, 147 ml | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | triethyl phosphite | 166.7 mmole, 28.7 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | tetrahydrofuran | 780 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 14.8 g | ClC=1C=CC2=C(CC(C(C(N2)=O)(C(=O)OC)O)C2=CC=C(C=C2)OC)C1 | C19H18ClNO5
